US08039490B2
(1-Benzyl-4-hydroxy-piperidin-4-yl)-(4-fluoro-phenyl)-methanone
6-Benzyl-2-(4-fluoro-phenyl)-2-methoxy-1-oxa-6-aza-spiro[2.5]octane (0.600 g, 1.83 mmol) was solved in ether (6 mL), 0.6 mL of aqueous HCl was added (37%) and the reaction mixture was stirred at room temperature. After 0.5 h the reaction was finished and water was added and the product precipitate. The mixture was filtrated and the solid was recrystallized ethanol/ether to yield the title compound as a white solid (0.550 g, 1.76 mmol, 96%). MS (m/e): 314.0 (M+H+).

reactant | 6-Benzyl-2-(4-fluoro-phenyl)-2-methoxy-1-oxa-6-aza-spiro[2.5]octane | 1.83 mmol, 0.600 g | C(C1=CC=CC=C1)N1CCC2(C(O2)(OC)C2=CC=C(C=C2)F)CC1 | C20H22FNO2
reactant | HCl | 0.6 mL | Cl | ClH
reactant | water | O | H2O
solvent | ether | 6 mL | CCOCC | C4H10O
product | (1-Benzyl-4-hydroxy-piperidin-4-yl)-(4-fluoro-phenyl)-methanone | 1.76 mmol, 0.550 g, 96% | C(C1=CC=CC=C1)N1CCC(CC1)(O)C(=O)C1=CC=C(C=C1)F | C19H20FNO2
